US07244843B2
Step C. Preparation of 3-(Hydroxymethyl)-2-(1-hydroxypropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one
Isomer B of methyl 2-(1-methoxy-1-oxopropan-2-yl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate (0.28 g, 0.96 mmol) in THF (9.8 ml) was added to a stirring solution of LiBH4 (2.0 M in THF, 0.58 ml, 1.2 mmol) in THF (1.5 ml). After refluxing for 1.5 h, the reaction was cooled to room temperature and quenched with 0.036 ml of water. Sodium hydroxide (1N, 0.072 ml) and then water (0.054 ml) were added. The reaction mixture was filtered through Celite, rinsing with THF. Evaporation of the filtrate afforded 0.32 g of crude product. Flash chromatography (SiO2, 0.5 to 10% MeOH in CH2Cl2) afforded pure product (0.20 g, 89% yield). MS (ESI) 236 (M+H).

reactant | methyl 2-(1-methoxy-1-oxopropan-2-yl)-1-oxo-1,2,3,4-tetrahydroisoquinoline-3-carboxylate | 0.96 mmol, 0.28 g | COC(C(C)N1C(C2=CC=CC=C2CC1C(=O)OC)=O)=O | C15H17NO5
reactant | LiBH4 | 1.2 mmol, 2.0 M, 0.58 ml | [Li+].[BH4-]
reactant | MeOH | CO | CH4O
solvent | THF | 9.8 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(Hydroxymethyl)-2-(1-hydroxypropan-2-yl)-3,4-dihydroisoquinolin-1(2H)-one | 0.20 g, 89% yield | OCC1N(C(C2=CC=CC=C2C1)=O)C(CO)C | C13H17NO3
